US04348527
2-Bromo-N-[1-(α,α,α-trifluoro-m-tolyl)-2-pyrazolin-3-yl]propionamide
To 100 ml. of chloroform with stirring is added 2.75 g. of potassium carbonate and 5.3 g. of 3-amino-1-(α,α,α-trifluoro-m-tolyl)-2-pyrazoline, then 5.0 g. of α-bromopropionylchloride is added dropwise. After the addition is complete the reaction mixture is refluxed on a steam bath for 4 hours. Then the solvent is removed in vacuo and water is added to give a gum. The gum is extracted with dichloromethane. The extracts are combined and dried over anhydrous magnesium sulfate. The solution is passed through a short column of a hydrous magnesium silicate, then is evaporated leaving a gummy solid. The solid is triturated with ether to give 1.13 g. of a yellow solid. The solid is recrystallized from acetone-hexane to give the desired product as yellow crystals, m.p. 54°-56° C.

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 3-amino-1-(α,α,α-trifluoro-m-tolyl)-2-pyrazoline | NC1=NN(CC1)C=1C=C(C=CC1)C(F)(F)F | C10H10F3N3
reactant | α-bromopropionylchloride | BrC(C(=O)Cl)C | C3H4BrClO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromo-N-[1-(α,α,α-trifluoro-m-tolyl)-2-pyrazolin-3-yl]propionamide | BrC(C(=O)NC1=NN(CC1)C=1C=C(C=CC1)C(F)(F)F)C | C13H13BrF3N3O
